US06329338B1
(4) Synthesis of N-ethyl 3-benzyloxycarbonylamino-1-propanol
N-Ethyl 3-benzyloxycarbonylamino-1-propanol t-butyldimethylsilyl ether (8.5 g) was dissolved in THF (120 ml), and to the resulting solution was added under ice-cooling a solution of 1N tetra-butylammonium fluoride in THF (48 ml). The resultant mixture was stirred at room temperature for 1 hour. Ethyl acetate and water were added to the reaction solution obtained. The organic layer so sepasated was washed with water and then dried over magnesium sulfate. The solvent was evaporated off from the solution, and the residue was purified by a silica gel chromatography, thus affording the titled compound (4.0 g; 71%)

reactant | N-Ethyl 3-benzyloxycarbonylamino-1-propanol t-butyldimethylsilyl ether | 8.5 g | [Si](C)(C)(C(C)(C)C)OCCCN(CC)C(=O)OCC1=CC=CC=C1 | C19H33NO3Si
reactant | tetra-butylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 48 ml | C1CCOC1 | C4H8O
product | N-ethyl 3-benzyloxycarbonylamino-1-propanol | 4.0 g, 71% | C(C)N(CCCO)C(=O)OCC1=CC=CC=C1 | C13H19NO3
